US07282501B2
A solution of toluene-4-sulfonic acid 2-[5-methyl-2-(4-morpholin-4-yl-phenyl)-oxazol-4-yl]-ethyl ester (44 mg, 0.10 mmol; Preparation 5) and 3-[4-hydroxy-2-(2-isopropoxycarbonylamino-ethyl)-phenyl]-propionic acid methyl ester (31 mg, 0.10 mmol) in DMF (1.0 mL) was treated with K2CO3 (30 mg). The resulting suspension was stirred at 65° C. for 16 h and diluted with water (10 mL). The mixture was extracted with EtOAc (3×10 mL). The combined organic layers were dried (Na2SO4), concentrated, and purified using silica gel chromatography (50% EtOAc/hexanes to yield 3-(2-(2-isopropoxycarbonylamino-ethyl)-4-{2-[5-methyl-2-(4-morpholin-4-yl-phenyl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid methyl ester.

reactant | toluene-4-sulfonic acid 2-[5-methyl-2-(4-morpholin-4-yl-phenyl)-oxazol-4-yl]-ethyl ester | 0.10 mmol, 44 mg | CC1=C(N=C(O1)C1=CC=C(C=C1)N1CCOCC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C23H26N2O5S
reactant | 3-[4-hydroxy-2-(2-isopropoxycarbonylamino-ethyl)-phenyl]-propionic acid methyl ester | 0.10 mmol, 31 mg | COC(CCC1=C(C=C(C=C1)O)CCNC(=O)OC(C)C)=O | C16H23NO5
reactant | K2CO3 | 30 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
product | 3-(2-(2-isopropoxycarbonylamino-ethyl)-4-{2-[5-methyl-2-(4-morpholin-4-yl-phenyl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)N1CCOCC1)CCNC(=O)OC(C)C)=O | C32H41N3O7
